US08212041B2
3-Chloro-4-methyl-6-phenylpyridazine (0.510 g, 2.49 mmol) was dissolved in hydrazine (1.56 ml, 49.8 mmol) then the reaction mixture was heated at 100° C. for 1.5 hours. The precipitate that had formed in the mixture was collected and washed with iPrOH. The solid was dried under high vacuum to afford 1-(4-methyl-6-phenylpyridazin-3-yl)hydrazine as a pale yellow solid.

reactant | 3-Chloro-4-methyl-6-phenylpyridazine | 2.49 mmol, 0.510 g | ClC=1N=NC(=CC1C)C1=CC=CC=C1 | C11H9ClN2
reactant | hydrazine | 49.8 mmol, 1.56 ml | NN | H4N2
product | 1-(4-methyl-6-phenylpyridazin-3-yl)hydrazine | CC1=C(N=NC(=C1)C1=CC=CC=C1)NN | C11H12N4
